### PR TITLE
Change PreceedsEquivocation to define predicates in Prop

### PR DESCRIPTION
**Pull request by bmmoore**

### CODE REVIEW

File: VLSM/PreceedsEquivocation.v [hunk 1]
```diff
@@ -41,35 +41,53 @@ Class message_equivocation_evidence
...
+Proof. firstorder. Qed.
 
-Definition message_preceeds_dec `{message_equivocation_evidence}
-  : RelDecision (fun e1 e2 => message_preceeds_fn e1 e2).
-  intros m1 m2. destruct (message_preceeds_fn m1 m2);simpl;[left|right];tauto.
-  (* bool_decide *)
-Defined.
+Lemma equivocating_with_dec
+      `{Hinstance:message_equivocation_evidence message validator}:
+  forall msg1 msg2, Decision (equivocating_with msg1 msg2).
```
Comment (palmskog) [inline VLSM/PreceedsEquivocation.v:72]:
```suggestion
Instance equivocating_with_dec `{message_equivocation_evidence}:
 RelDecision equivocating_with.
```

File: VLSM/PreceedsEquivocation.v [hunk 2]
```diff
@@ -41,35 +41,53 @@ Class message_equivocation_evidence
...
       (msgs : set message)
       :=
-      existsb (equivocating_with msg) msgs
+      exists m, In m msgs /\ equivocating_with msg m
   }.
 
-Definition message_preceeds `{message_equivocation_evidence message}:
-  message -> message -> Prop :=
-  fun m1 m2 => message_preceeds_fn m1 m2.
+Lemma and_iff_l {P Q R:Prop} : P -> (Q <-> R) -> (P /\ Q <-> P /\ R).
```
Comment (palmskog) [inline VLSM/PreceedsEquivocation.v:58]: Since these lemmas until `Decision_not` are general, maybe we can put them in Lib/Classes.v instead? This makes them easier to reuse.

**Review by palmskog — APPROVED** [review]

**Review by traiansf — COMMENTED** [review]
I have the same observations as Karl.  In addition, although the proofs  are much shorter, there are some things I (and Mihai as well) don't fully understand. If they are quite standard (you and Karl should know), then maybe we should learn more about them. If not, we need to decide whether it's worthwhile having new people in the project be first educated into using these tactics.

File: VLSM/PreceedsEquivocation.v (hunk 2 above)
[the remark this answers is not in the document]
Comment (palmskog) [reply VLSM/PreceedsEquivocation.v:58]: Indeed similar lemmas can also be [found](https://gitlab.mpi-sws.org/iris/stdpp/-/blob/1b5590612a44601fe54cfc7682d54022c7099158/theories/decidable.v#L168) in the stdpp library:
```coq
Section prop_dec.
  Context `(P_dec : Decision P) `(Q_dec : Decision Q).

  Global Instance not_dec: Decision (¬P).
  Proof. refine (cast_if_not P_dec); intuition. Defined.
  Global Instance and_dec: Decision (P ∧ Q).
  Proof. refine (cast_if_and P_dec Q_dec); intuition. Defined.
  Global Instance or_dec: Decision (P ∨ Q).
  Proof. refine (cast_if_or P_dec Q_dec); intuition. Defined.
  Global Instance impl_dec: Decision (P → Q).
  Proof. refine (if P_dec then cast_if Q_dec else left _); intuition. Defined.
End prop_dec.
Instance iff_dec `(P_dec : Decision P) `(Q_dec : Decision Q) :
  Decision (P ↔ Q) := and_dec _ _.
```
In particular, I think the iff lemma is basically already covered by some implication lemmas there.
